Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ drainage on ___

 
History of Present Illness:
HPI:
___ with h/o ventral hernia repair in ___ at ___, complicated 
by
a fluid collection which was drained by ___ in early ___, now
presenting with 1 month of intermittent abdominal pain which has
worsened in the past ___ days. Also complaining of LLE swelling.
Patient presented to ___ ED in ___ complaining of the
same issue and was found to have a re-accumulation of fluid near
the ventral hernia repair at that time. 

Denies fever/chills, n/v, diarrhea, constipation, BRBPR, melena,
CP, SOB, or urinary symptoms.

 
Past Medical History:
Hernia status post repair, HTN, DM

 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAMINATION: upon admission: ___ 
 
Temp: 96.9 HR: 113 BP: 104/83 Resp: 16 O(2)Sat: 97 Normal
 
Constitutional: No acute distress.
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Abdomen is obese, Right lower quadrant
tenderness to palpation. Distended. No rebound, guarding, or
peritoneal signs.
GU/Flank: No costovertebral angle tenderness
Skin: Warm and dry, No rash
Neuro: Speech fluent
Psych: Normal mood, Normal mentation
 

 
Pertinent Results:
___ 06:06AM BLOOD WBC-7.0 RBC-4.24* Hgb-10.9* Hct-35.6* 
MCV-84 MCH-25.7* MCHC-30.7* RDW-15.1 Plt ___
___ 12:15PM BLOOD WBC-6.3# RBC-4.88 Hgb-12.3* Hct-40.8 
MCV-84 MCH-25.2* MCHC-30.1* RDW-15.0 Plt ___
___ 12:15PM BLOOD Neuts-76.8* ___ Monos-2.3 Eos-1.0 
Baso-0.3
___ 06:06AM BLOOD Plt ___
___ 06:06AM BLOOD ___ PTT-33.0 ___
___ 06:06AM BLOOD Glucose-132* UreaN-14 Creat-1.2 Na-135 
K-4.7 Cl-101 HCO3-26 AnGap-13
___ 12:15PM BLOOD Glucose-140* UreaN-12 Creat-1.0 Na-137 
K-4.5 Cl-103 HCO3-23 AnGap-16
___ 12:15PM BLOOD ALT-14 AST-25 AlkPhos-47 TotBili-0.9
___ 06:06AM BLOOD Calcium-8.3* Phos-4.8* Mg-1.9

___:  ultrasound lower ext:

IMPRESSION: 
1.  Limited study, however, no evidence of DVT within the 
visualized left 
lower extremity veins.  
2.  Extensive subcutaneous edema.

___:  cat scan of abdomen and pelvis:

IMPRESSION:   
1.  Marked increase in size of the fluid collection associated 
with the 
ventral hernia repair, likely representing a seroma. Infection 
of this 
collection is not excluded. 
2.  Moderate amount of ascites which has increased from prior 
study.

___:  CT interventional procedure:

pending 
 
  

 
Brief Hospital Course:
The patient was admitted to the acute care service with 
abdominal pain and left leg swelling.  Upon admission, he was 
made NPO, given intravenous fluids, and underwent imaging of the 
abdomen which showed a marked increase in the size of the fluid 
collection associated with the ventral hernia repair, most 
likely representing a seroma.  Blood work was obtained upon 
admission and his white blood cell count was normal.  Because of 
his left leg pain he underwent an ultrasound to rule out a DVT.  
No blood clot was visualized. 

On HD # 2, he was taken to ___ for drainage of the fluid 
collection and a drain was left in place.  Over the course of 
the next day over 5L of deep serous fluid was removed, and his 
pain greatly improved.  His abdomen on exam was benign and there 
were no signs of symptoms of infection, and his gram stain of 
the fluid was negative.

The patient was advanced to full PO and he tolerated diet well, 
and on ___ he was discharged without incident.  Advised to 
follow up with his original surgeon at ___, but that if that 
surgeon felt they could not handle the problem they should call 
Dr. ___ here, request transfer of care and supply me 
with the necessary information as to the patient's operative 
details.  Discharged with drain in place, advised no flushing 
necessary.

 
Medications on Admission:
none
 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for Pain.  
2. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for Pain.  
3. ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for Pain.  
4. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day: 
hold for loose stool.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
recurrent intrabdominal inframesh fluid collection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain and left 
lower leg swelling. You underwent a cat scan of the abdomen 
which showed an abdominal fluid collection around the repair of 
your hernia.  You were taken to radiology to have the collection 
drained.  Your vital signs and white blood cell count have been 
normal.  You are preparing for discharge home with the following 
instuctions:  
Please follow up:

*  Recurrence abdominal pain

*  Increased swelling of left leg and increased pain, please 
keep left leg elevated.  Please report increased pain left leg 
and numbness of toes.

Please call your doctor or return to the emergency room if you 
have any of the following:
 

 * You experience new chest pain, pressure, squeezing or 
 tightness.
 
* New or worsening cough or wheezing.
 
* If you are vomiting and cannot keep in fluids or your 
 medications.
 
* You are getting dehydrated due to continued vomiting, 
 diarrhea or other reasons. Signs of dehydration include dry 
 mouth, rapid heartbeat or feeling dizzy or faint when standing.
 
* You see blood or dark/black material when you vomit or have a 
 bowel movement.
 

* You have shaking chills, or a fever greater than 101.5 (F) 
 degrees or 38(C) degrees.
 
* Any serious change in your symptoms, or any new symptoms that 
 concern you. 
 
* Please resume all regular home medications and take any new 
meds 
 as ordered.  

 

 
Followup Instructions:
___